US07301032B2
320 mg of 5-(3-ethylcyclohexyl)-3-methylthio-1,2,4-thiadiazole was dissolved in 2.5 ml of chloroform, 738 mg of 3-chloroperoxybenzoic acid (content>65%) was added thereto taking for 20 minutes, and the reaction mixture was stirred for 20 minutes at room temperature. Then, the reaction mixture was added to saturated sodium hydrogensulfite aqueous solution, and separated. The organic layer was washed with sodium hydrogencarbonate aqueous solution, dried over anhydrous sodium sulfate, concentrated to give 380 mg of 3-methylsulfonyl-5-(3-ethylcyclohexyl)-1,2,4-thiadiazole.

reactant | 5-(3-ethylcyclohexyl)-3-methylthio-1,2,4-thiadiazole | 320 mg | C(C)C1CC(CCC1)C1=NC(=NS1)SC | C11H18N2S2
reactant | 3-chloroperoxybenzoic acid | 738 mg | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | sodium hydrogensulfite | S(=O)(O)[O-].[Na+]
solvent | chloroform | 2.5 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-methylsulfonyl-5-(3-ethylcyclohexyl)-1,2,4-thiadiazole | 380 mg | CS(=O)(=O)C1=NSC(=N1)C1CC(CCC1)CC | C11H18N2O2S2
